US04406689
With the temperature maintained at 30° or below, a mixture of N-ethoxycarbonylhexahydropyridazine (1.5 g, 9.49 mmol) and triethylamine (1.0 g, 9.49 mmol) in 8 ml of benzene is added dropwise to a stirring solution of thiophosgene (1.1 g, 9.49 mmol) in 10 ml of benzene. The reaction is stirred at RT for 4 hours, and is then diluted with benzene to 50 ml, quickly washed with water and with brine, dried and stripped to give N-ethoxycarbonyl-N'-chlorothiocarbonylhexahydropyridazine.

reactant | N-ethoxycarbonylhexahydropyridazine | 9.49 mmol, 1.5 g | C(C)OC(=O)N1NCCCC1 | C7H14N2O2
reactant | triethylamine | 9.49 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 9.49 mmol, 1.1 g | C(=S)(Cl)Cl | CCl2S
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-ethoxycarbonyl-N'-chlorothiocarbonylhexahydropyridazine | C(C)OC(=O)N1N(CCCC1)C(=S)Cl | C8H13ClN2O2S
